US04632922
A test similar to that described for the same reaction in methanol solvent (vide supra) was run. Oxomorpholinyl dimer DHM3 (1.38 mg, 4.37×10-3 mmol) was dissolved in 0.5 ml of oxygen-free methanol and quickly transferred without delay into one compartment of the cell. The solvent was promptly removed under vacuum. Daunorubicin hydrochloride (11.9 mg) was dissolved in 100 ml of an aqueous solution of Tris (24.2 mg) and Tris hydrochloride (31.6 mg) and 2.6 ml of this solution (4.18×10-4 mmol of 6) was introduced into the other compartment of the cell. The sample was freeze-thaw degassed over three cycles as described above, sealed, and placed in a thermostatted cell holder at 10.0±0.1° C. for about 20 min prior to mixing. Full spectra between 320 and 800 nm were recorded every 10 sec for the first 125 sec, and then every 20 sec. From the absorbance change at 620 nm over the first 85 sec (50% reaction of daunorubicin), a non-linear least-squares treatment gave a first order rate constant for bond homolysis of DHM3 (k1) equal to 6×10-4 sec-1 and a first order rate constant for destruction of 7 (k2) equal to 2×10-2 sec-1. Treatment of the data obtained in the 164-225 sec interval gave k2 =2.8×10-2 sec-1.

reactant | Daunorubicin hydrochloride | 11.9 mg | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)C)O)N)O.Cl
reactant | Tris | 24.2 mg | C(C(CO)(CO)N)O | C4H11NO3
reactant | Tris hydrochloride | 31.6 mg | C(C(CO)(CO)N)O.Cl
solvent | methanol | CO | CH4O
solvent | oxygen | 0.5 ml | O=O | O2
product | DHM3 | CC1(COC(=O)C(N1)(C)C2(C(=O)OCC(N2)(C)CO)C)CO | C14H24N2O6
